US07517873B2
Under an argon atmosphere, a solution of 26.86 g (0.145 mole) of (rac)-3-cyclopentylamino-2-methyl-propanoic acid methyl ester in 25 mL of ethyl acetate was added over 5 minutes to a cooled (5 degrees) and stirring mixture of 28.13 g (0.145 mole) of 2,4-dichloro-5-nitro-pyrimidine, 48.72 g (0.58 mole) of sodium bicarbonate and 300 mL of ethyl acetate. The cooling bath was removed and the mixture stirred for 17 hours at room temperature. Activated charcoal was added and after stirring briefly, the mixture was filtered through a pad of Celite, washing the filter pad with ethyl acetate. The mixture was concentrated under reduced pressure to give 50.37 g of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-propanoic acid methyl ester (IV-1) as a thick oil, which contained a small portion of a regioisomer. This material was used directly in the next step without further purification.

reactant | (rac)-3-cyclopentylamino-2-methyl-propanoic acid methyl ester | 0.145 mole, 26.86 g | COC(C(CNC1CCCC1)C)=O | C10H19NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.145 mole, 28.13 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | sodium bicarbonate | 0.58 mole, 48.72 g | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-2-methyl-propanoic acid methyl ester | 50.37 g | COC(C(CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C14H19ClN4O4
